US05144081
A suspension of 9.2 g (0.17 mol) of sodium methoxide in 200 ml of cyclohexane is initially introduced into an apparatus rendered inert with nitrogen and the mixture is treated with a solution of 18.2 g (0.12 mol) of DL-camphor in 100 ml of cyclohexane. The mixture is heated to 50° C. with stirring and 25 g (0.15 mol) of molten 2,5-dimethoxybenzaldehyde are then added. The reaction mixture is heated under reflux for 3 hours. After cooling, it is treated with 300 ml of water. The organic phase is separated off, washed with 1N hydrochloric acid and then with saturated sodium chloride solution, and dried over sodium sulfate. After removing cyclohexane in vacuo, 17.1 g of crude product are obtained. Excess DL-camphor is removed by steam distillation. After chromatography on silica gel 60 using toluene/ethyl acetate in the ratio 3:1 as the eluent, an oil is obtained which after some time solidifies to give 9.2 g of crystalline 3-(2',5' -dimethoxybenzylidene)camphor of melting point 70°-72° C.

reactant | sodium methoxide | 0.17 mol, 9.2 g | C[O-].[Na+]
reactant | DL-camphor | 0.12 mol, 18.2 g | C[C@@]12CC[C@@H](C1(C)C)CC2=O | C10H16O
reactant | 2,5-dimethoxybenzaldehyde | COC1=C(C=O)C=C(C=C1)OC | C9H10O3
reactant | water | 300 ml | O | H2O
solvent | cyclohexane | 200 ml | C1CCCCC1 | C6H12
solvent | cyclohexane | 100 ml | C1CCCCC1 | C6H12
product | 3-(2',5' -dimethoxybenzylidene)camphor | 9.2 g | COC1=C(C=C2C(C3(CCC2C3(C)C)C)=O)C=C(C=C1)OC | C19H24O3
